US09034866B2
Synthesis of 10-bromo-9-fluoro-3-(hydroxy(3-(trifluoromethyl)phenyl)methyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide
The title compound was prepared similarly according to the procedure described in Example 2. 10-bromo-9-fluoro-3-(hydroxy(3-(trifluoromethyl)phenyl)methyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxylic acid was reacted with ammonium chloride to give the titled compound which was used in subsequent steps without purification.

reactant | 10-bromo-9-fluoro-3-(hydroxy(3-(trifluoromethyl)phenyl)methyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxylic acid | BrC=1C(=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)O)C(C3=CC(=CC=C3)C(F)(F)F)O)C1)F | C20H13BrF4N2O4
reactant | ammonium chloride | [Cl-].[NH4+]
product | 10-bromo-9-fluoro-3-(hydroxy(3-(trifluoromethyl)phenyl)methyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | BrC=1C(=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)C(C3=CC(=CC=C3)C(F)(F)F)O)C1)F | C20H14BrF4N3O3
